US06337423B1
Under a nitrogen atmosphere, 3,5-dimethylphenol (40.9 mmoles) was dissolved in 40 mL water and 40 mL ether. To this was added 1.5 equivalents (61.4 mmoles) of sodium nitrate (NaNO3). The reaction was cooled in an ice bath and 50 mL concentrated HCl was slowly added to the reaction. The reaction was warmed to room temperature and followed by TLC (ethyl acetate:hexanes, 1:1) until the reaction was complete (0.5 hour). The reaction was extracted into ether (×3), washed with saturated NaHCO3, saturated NaCl, dried over MgSO4, filtered, rinsed with ether, and concentrated. The product was purified using silica-gel chromatography, yielding 3,5-dimethyl-4-nitro-phenol as a yellow solid (2.05 grams; 30% yield). The product was characterized by NMR (DMSO).

reactant | 3,5-dimethylphenol | 40.9 mmoles | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | sodium nitrate | 61.4 mmoles, 1.5 equivalents | [N+](=O)([O-])[O-].[Na+]
reactant | HCl | 50 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 40 mL | O | H2O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 3,5-dimethyl-4-nitro-phenol | 30% yield | CC=1C=C(C=C(C1[N+](=O)[O-])C)O | C8H9NO3
